US07521461B2
a) 1-(2-Bromoethyl)-3-tert-butoxybenzene
3-(2-Bromoethyl)phenol (1.349 g, 6.709 mmol) in DCM (7 ml) was cooled under argon to −78° C. Under stirring, isobutene was bubbled into the mixture until more than 5 ml were added. Trifluoromethanesulphonic acid (50 μl) was dropped in. The mixture was stirred under argon at −78° C. for 4.5 hours. Triethylamine (120 μl) was added. The reaction mixture was allowed up to room temperature and then filtered. The filtrate was evaporated to dryness and petroleum ether (25 ml) was added into the residue. It was then filtered and evaporated. The obtained oil was solved in ethyl acetate, washed with water, dried (sodium sulphate) and evaporated. The residue was dissolved in CDCl3 and then evaporated. 1.223 g desired product was left, yield 71%.

reactant | 3-(2-Bromoethyl)phenol | 6.709 mmol, 1.349 g | BrCCC=1C=C(C=CC1)O | C8H9BrO
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Bromoethyl)-3-tert-butoxybenzene | yield 71% | BrCCC1=CC(=CC=C1)OC(C)(C)C | C12H17BrO
